US07589234B2
An aqueous solution of CF3CF2CF2CF2OCH2CF2COONH4 was prepared in the same manner as in Synthesis Example 1 except that the CF3CF2CF2CF2OCH2CF2COOH prepared in Synthesis Example 3 was neutralized to pH 7 using aqueous ammonia in lieu of the aqueous solution of sodium hydroxide.

reactant | CF3CF2CF2CF2OCH2CF2COOH | C(F)(F)(F)C(F)(F)C(F)(F)C(F)(F)OCC(F)(F)C(=O)O | C7H3F11O3
reactant | ammonia | N | H3N
reactant | sodium hydroxide | [OH-].[Na+]
product | CF3CF2CF2CF2OCH2CF2COONH4 | C(F)(F)(F)C(F)(F)C(F)(F)C(F)(F)OCC(F)(F)C(=O)[O-].[NH4+] | InChI=1S/C7H3F11O3.H3N/c8-3(9,2(19)20)1-21-7(17,18)5(12,13)4(10,11)6(14,15)16;/h1H2,(H,19,20);1H3
